US07585891B2
Step D Synthesis of 4-[4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenoxy]butan-1-ol as an Intermediate
Twenty seven grams (0.067 mole) of 4-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]butyl acetate was stirred and a solution of 5.4 grams (0.134 mole) of sodium hydroxide in 300 mL of methanol was added portion-wise. Upon completion of addition the reaction mixture was stirred at ambient temperature during a two hour period. After this time the reaction mixture was stirred with 400 mL of water and was neutralized with concentrated hydrochloric acid. The neutral mixture was extracted with four 150 mL portions of diethyl ether, and the combined extracted were washed with one 150 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure to a residue, yielding 22.5 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]butyl acetate | 0.067 mole, Twenty seven grams | C(C)(=O)OCCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
reactant | sodium hydroxide | 0.134 mole, 5.4 grams | [OH-].[Na+]
reactant | water | 400 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 4-[4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenoxy]butan-1-ol | 22.5 grams | ClC(=CCOC1=CC(=C(OCCCCO)C(=C1)Cl)Cl)Cl | C13H14Cl4O3
